US07829580B2
(b) (E)-4-(t-Butyldimethylsilyloxy)-3-(2-hydroxyethylidene]-1-(triphenylmethyl)piperidine
To a solution of (E)-4-(t-butyldimethylsilyloxy)-3-[(ethoxycarbonyl)methylidene]-1-(triphenylmethyl)piperidine (15.14 g) in dichloromethane (110 ml) was added dropwise a 1.01N solution of diisobutyl aluminium hydride in toluene (66.40 ml) at −70° C., and the resulting mixture was stirred at the same temperature for 3 hours. After stirring, saturated aqueous ammonium chloride solution was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:3) as the eluent to afford the title compound (13.22 g, yield: 95%) as a colourless amorphous solid.

reactant | (E)-4-(t-butyldimethylsilyloxy)-3-[(ethoxycarbonyl)methylidene]-1-(triphenylmethyl)piperidine | 15.14 g | [Si](C)(C)(C(C)(C)C)OC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C(=O)OCC | C34H43NO3Si
reactant | diisobutyl aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
solvent | toluene | 66.40 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(t-Butyldimethylsilyloxy)-3-(2-hydroxyethylidene]-1-(triphenylmethyl)piperidine | 13.22 g, yield: 95% | [Si](C)(C)(C(C)(C)C)OC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/CO | C32H41NO2Si
